US07666888B2
N,N-Dibenzyl-5-(4-methylphenyl)isoxazole-4-carboxamide
The title compound was prepared from 5-(4-methylphenyl)isoxazole-4-carboxylic acid (10.2 mg, 0.050 mmol) and dibenzylamine (11.8 mg, 0.060 mmol) as described in synthetic method B and thereafter purified by preparative HPLC method B to give a solid (2.6 mg). Calcd for C25H22N2O2: 382.1681, found 382.1684.

reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 10.2 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | dibenzylamine | 0.060 mmol, 11.8 mg | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
product | N,N-Dibenzyl-5-(4-methylphenyl)isoxazole-4-carboxamide | C(C1=CC=CC=C1)N(C(=O)C=1C=NOC1C1=CC=C(C=C1)C)CC1=CC=CC=C1 | C25H22N2O2
